US09029560B2
Preparation of 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol (CA6)
The title compound was prepared as described in Example 24 from 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde and ethylmagnesium bromide and isolated as a yellow oil (5.00 g, 100%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.20-8.12 (m, 2H), 7.85-7.76 (m, 2H), 7.50-7.44 (m, 2H), 7.39 (dq, J=8.0, 1.0 Hz, 2H), 4.68 (t, J=6.5 Hz, 1H), 1.93-1.75 (m, 2H), 1.59 (s, 1H), 0.95 (t, J=7.4 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 364 ([M+H]+).

reactant | 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
product | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC)O)(F)F | C18H16F3N3O2
